US07776875B2
Preparation of Intermediate 5-chloro-2-methylsulfanylmethoxy-benzaldehyde
A mixture of 5-chloro-2-hydroxy-benzaldehyde (15.6 g, 0.1 mol), chloro-methylsulfanyl-methane (9.6 g, 0.1 mol), K2CO3 (14 g, 0.1 mol) and KI (1 g, 0.006 mol) in DMF (70 mL) was heated at 70° C. for 2 h. After cooled to the room temperature, the mixture was poured into ice water. The aqueous phase was extracted with diethyl ether. The combined organic layers were washed with NaOH solution (1 N), dried over anhydrous Na2SO4 and concentrated to give the title compound as a yellow oil (14.2 g).

reactant | 5-chloro-2-hydroxy-benzaldehyde | 0.1 mol, 15.6 g | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
reactant | chloro-methylsulfanyl-methane | 0.1 mol, 9.6 g | ClCSC | C2H5ClS
reactant | K2CO3 | 0.1 mol, 14 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 5-chloro-2-methylsulfanylmethoxy-benzaldehyde | 14.2 g | ClC=1C=CC(=C(C=O)C1)OCSC | C9H9ClO2S
